US04362728
A mixture of 2-[2-(2,2,2-trifluoroethyl)-guanidino]-4-[4-(3-[2-aminophenyl]thioureido)butyl]thiazole (0.45 g.), silver nitrate (0.34 g.) and triethylamine (0.28 ml.) in dimethylformamide (3 ml.) was stirred vigorously at ambient temperature overnight. Hydrogen sulphide gas was then bubbled through the reaction mixture until no more solid precipitated. The reaction mixture was filtered through a pad of diatomaceous earth and the filtrate evaporated to dryness in vacuo. The residue was purified by low pressure liquid chromatography using chloroform/methanol/ammonia, 9:1:0.1 v/v/v as eluant to give 2-[4-(2-[2-(2,2,2-trifluoroethyl)guanidino]thiazol-4-yl)butylamino]benzimidazole which was converted to the hydrogen maleate salt (0.25 g.), mp. 183°-186°.

reactant | 2-[2-(2,2,2-trifluoroethyl)-guanidino]-4-[4-(3-[2-aminophenyl]thioureido)butyl]thiazole | 0.45 g | FC(CN=C(NC=1SC=C(N1)CCCCNC(=S)NC1=C(C=CC=C1)N)N)(F)F | C17H22F3N7S2
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
catalyst | silver nitrate | 0.34 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-[4-(2-[2-(2,2,2-trifluoroethyl)guanidino]thiazol-4-yl)butylamino]benzimidazole | FC(CN=C(NC=1SC=C(N1)CCCCNC=1NC2=C(N1)C=CC=C2)N)(F)F | C17H20F3N7S
